US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(5-(4-((4-chlorobenzyl)oxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate (0.0344 g, 0.058 mmol) and LiOH (0.014 g, 0.580 mmol) in 9:1 EtOH/H2O (2 mL0 was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(5-(4-((4-chlorobenzyl)oxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0258 g, 0.046 mmol, 79% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.38-7.44 (m, 4H), 7.15-7.20 (m, 1H), 7.01-7.10 (m, 3H), 5.99 (br. s., 1H), 5.08-5.16 (m, 2H), 3.57 (br. s., 1H), 2.90 (br. s., 1H), 2.64 (s, 3H), 2.24-2.32 (m, 1H), 2.22 (s, 3H), 1.97-2.13 (m, 1H), 1.25 (s, 9H), 0.88 (br.s., 3H), 0.64 (br. s., 3H). 4H of piperidine were not resolved. LCMS (M+H)=565.3.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(5-(4-((4-chlorobenzyl)oxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 0.058 mmol, 0.0344 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl)C)C | C35H45ClN2O4
reactant | LiOH | 0.580 mmol, 0.014 g | [Li+].[OH-]
solvent | EtOH H2O | CCO.O
product | (S)-2-(tert-butoxy)-2-(5-(4-((4-chlorobenzyl)oxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.046 mmol, 0.0258 g, 79% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl)C)C | C33H41ClN2O4
